US08067445B2
Step 5: {2′-[(Acetyl-ethyl-amino)-methyl]-6-fluoro-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2′-ethylaminomethyl-6-fluoro-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and acetyl chloride.

reactant | (2′-ethylaminomethyl-6-fluoro-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C19H19F4NO2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | {2′-[(Acetyl-ethyl-amino)-methyl]-6-fluoro-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(C)=O)=O | C21H21F4NO3
